US04579585
4(1-Fluoromethyl-ethyl)-nitrobenzene
To a solution of 17.5 g (0.1 Mol) 4(1-fluoromethylethenyl)-nitrobenzene in 400 ml CH3OH are added 100 g (0.8 Mol) 90% hydroxylamine-O-sulphonic acid and 67.2 g (0.41 Mol) hydroxylamine sulphate. The reaction mixture is then rendered alkaline (pH 8) at 15°-20° cooling with ice water) with 20% aqueous NaOH. After the addition of a further 500 ml portion of CH3OH the reaction mixture is stirred at room temperature for 24 hours, and then filtered. The filtrate is evaporated in vacuo. The residue is dissolved in CH2Cl2, this solution washed with H2O, dried over Na2SO4 and evaporated. The light yellow, chromatographically (this layer) pure liquid (Rf=0.5; CHCl3 /CCl4 1:1 on silica gel) is vaccum distilled, to give the title compound, b.p. 103°-104°/0.1 Torr.

reactant | 4(1-fluoromethylethenyl)-nitrobenzene | 0.1 Mol, 17.5 g | FCC(=C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H8FNO2
reactant | hydroxylamine-O-sulphonic acid | 0.8 Mol, 100 g | NOS(=O)(=O)O | H3NO4S
reactant | hydroxylamine sulphate | 0.41 Mol, 67.2 g | S(=O)(=O)(O)O.NO
reactant | NaOH | [OH-].[Na+]
solvent | CH3OH | 400 ml | CO | CH4O
product | 4(1-Fluoromethyl-ethyl)-nitrobenzene | FCC(C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10FNO2
